US07893267B2
1.5 g (5.5 mmol) of 3-amino-5-ethylsulfanyl-2-nitro-benzoic acid ethyl ester was reduced by 2.9 g (16.6 mmol) of Na2S2O4 in 28 mL of ethanol/ethyl acetate/water (3:3:1) at 80° C. for 3 h to produce 2,3-diamino-5-ethylsulfanyl-benzoic acid ethyl ester. LCMS: 241 (M+1)+.

reactant | 3-amino-5-ethylsulfanyl-2-nitro-benzoic acid ethyl ester | 5.5 mmol, 1.5 g | C(C)OC(C1=C(C(=CC(=C1)SCC)N)[N+](=O)[O-])=O | C11H14N2O4S
reactant | Na2S2O4 | 16.6 mmol, 2.9 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | ethanol ethyl acetate water | 28 mL | C(C)O.C(C)(=O)OCC.O
product | 2,3-diamino-5-ethylsulfanyl-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)SCC)N)N)=O | C11H16N2O2S
